US06534445B1
200 mg (0.516 mmol) of methyl 3-[6-(chlorodifluoromethyl)-2-methylpyridine-3-carbonyl]-2-hydroxy-1-methyl-4-oxocyclohex-2-enecarboxylate (compound A94-B34) is heated for 3 hours at a temperature of 120° C. in 8 ml of toluene in the presence of 0.18 ml (0.62 mmol) tris(trimethylsilyl)silane. The viscous residue which remains is chromatographed on silica gel. The pale yellow viscous oil which is obtained by eluting with a mixture of toluene, ethyl alcohol, dioxane, triethylamine and water (100:40:20:20:5 by volume) is dissolved in dichloromethane and washed in succession with aqueous hydrochloric acid and water. Evaporation of the organic solution which has been dried with Na2SO4 yields 140 mg (73%) of pure methyl 3-(6-difluoromethyl-2-methylpyridine-3-carbonyl)-2-hydroxy-1-methyl-4-oxocyclohex-2-enecarboxylate in the form of a pale yellow oil. 1H-NMR (CDCl3): 1.28, s, 3H; 1.79-1.97, m, 1H; 2.39-2.46, m, 1H; 2.43, s, 3H; 2.69, dt (J, 19.2 and 4.8 Hz), 1H; 2.82-2.92, m, 1H; 3.67, s, 3H; 6.55, t, (J, 55.5 Hz), 1H; 7.43, d (J, 7.8 Hz), 1H; 7.49, d (J, 7.8 Hz), 1H; 17.20 ppm, br s, 1H.

reactant | methyl 3-[6-(chlorodifluoromethyl)-2-methylpyridine-3-carbonyl]-2-hydroxy-1-methyl-4-oxocyclohex-2-enecarboxylate | 0.516 mmol, 200 mg | ClC(C1=CC=C(C(=N1)C)C(=O)C1=C(C(CCC1=O)(C(=O)OC)C)O)(F)F | C17H16ClF2NO5
reactant | tris(trimethylsilyl)silane | 0.62 mmol, 0.18 ml | C[Si](C)(C)[SiH]([Si](C)(C)C)[Si](C)(C)C | C9H28Si4
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(6-difluoromethyl-2-methylpyridine-3-carbonyl)-2-hydroxy-1-methyl-4-oxocyclohex-2-enecarboxylate | 140 mg, 73% | FC(C1=CC=C(C(=N1)C)C(=O)C1=C(C(CCC1=O)(C(=O)OC)C)O)F | C17H17F2NO5
